US07220865B2
6-Fluoro-3,4-dihydro-1H-naphthalen-2-one (0.2 mmol) was combined with 2-(S)-Amino-pentanoic acid (5-Cyclopentylmethyl-isoxazol-3-yl)-amide (0.2 mmol) in 2 mL of anhydrous dichloromethane under N2. Sodium triacetoxyborohydride (0.3 mmol) and two drops acetic acid were added and the reaction was stirred at rt for 16 h. The crude solution was then concentrated under reduced pressure and purified through flash chromatography on silica gel to give 2-(S)-(6-Fluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (5-cyclopentylmethyl-isoxazol-3-yl)-amide, LC-MS: retention time 2.0 min, M+1: 414.

reactant | 6-Fluoro-3,4-dihydro-1H-naphthalen-2-one | 0.2 mmol | FC=1C=C2CCC(CC2=CC1)=O | C10H9FO
reactant | 2-(S)-Amino-pentanoic acid (5-Cyclopentylmethyl-isoxazol-3-yl)-amide | 0.2 mmol | C1(CCCC1)CC1=CC(=NO1)NC([C@H](CCC)N)=O | C14H23N3O2
reactant | Sodium triacetoxyborohydride | 0.3 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | acetic acid | two drops | C(C)(=O)O | C2H4O2
product | 2-(S)-(6-Fluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (5-cyclopentylmethyl-isoxazol-3-yl)-amide | C1(CCCC1)CC1=CC(=NO1)NC([C@H](CCC)NC1CC2=CC=C(C=C2CC1)F)=O | C24H32FN3O2
